### PR TITLE
Groupoid Natural Model Universes

### PR DESCRIPTION
**Pull request by Jlh18**
In this PR 
- (re?)-defined the "small" natural models, a.k.a universes. These are small in the sense of being `yoneda.map` of some map in `Ctx`.
- The universes are defined using a (lean universe polymorphism) parameter `v`, and are designed so that we can add any finite number of such universes! I included 3 small universes + the "large" or "ambient" natural model just to be extra sure of this fact. This design requirement (I believe) necessitates proving what naively might appear to be the same facts twice, once each for the large natural model, and once each for the small natural models.
- A developed a proof strategy for manipulating pullbacks in `Cat` (the same applies to `Type` or `Grpd`). This is contained in namespaces called `IsMegaPullback`. I'm not sure if this should be generalized. Details below:
  - Often the difficulty in wielding the pullback theorems in `Cat` or `Grpd` are due to universe level issues. For example if we want to use a pullback in `Cat.{v,v}` to prove its image under `ULift` is still a pullback in `Cat.{max v u, max v u}` it is not straight-forward, even though we know it suffices to prove the universal property for cones where the apex is `2`. So I propose instead of restricting showing universal property in `Cat.{v,v}`, we can show that the cone is terminal amongst categories with any pair of universe levels. This can then be easily applied to show the universal property in `Cat{max v u, max v u}`. 
- I also showed some things about `Core` (as in core groupoid of a category). Namely the adjunction between `Grpd` and `Cat` and that it restricts to an equivalence between `Grpd` and `Grpd`. I used that `Core` is a left adjoint to show that it preserves pullbacks.

### CODE REVIEW

File: GroupoidModel/ForMathlib.lean [hunk 1]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+@[simp]
+theorem id_inv (X : C) :
+    Iso.inv (coreCategory.id X) = @CategoryStruct.id C _ X := by
+  rfl
+  @[simp]
+theorem comp_inv {X Y Z : Core C} (f : X ⟶ Y) (g : Y ⟶ Z) :
+    (f ≫ g).inv = g.inv ≫ f.inv :=
+  rfl
+
+def functor' (F : C ⥤ D) : Core C ⥤ Core D where
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:358]: `def Core.map`?

File: GroupoidModel/ForMathlib.lean [hunk 2]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+    unfold Cat.homOf at *
+    unfold inclusion at *
+    simp only [Cat.of_α, Cat.comp_obj, lift, functor', comp_hom] at *
+    convert h
+    · apply Core.eqToIso_hom
+    · apply Core.eqToIso_hom
+  · intro x
+    exact Functor.congr_obj s.condition x
+
+def uniq (s : PullbackCone (Cat.homOf F) (Cat.homOf (inclusion D)))
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:529]: `lift_uniq` or `lift_ext`?

File: GroupoidModel/Groupoids/RussellNaturalModel.lean [hunk 3]
```diff
@@ -1,66 +1,365 @@
...
+
+def CAT : Cat.{max u (v+1), max u (v+1) + 1} :=
+  Cat.of (Cat.{max u (v+1), max u (v+1)})
+def PCAT : Cat.{max u (v+1), max u (v+1) + 1} :=
+  Cat.of (PCat.{max u (v+1), max u (v+1)})
+def GRPD : Cat.{max u (v+1), max u (v+1) + 1} :=
+  Cat.of (Grpd.{max u (v+1), max u (v+1)})
+def PGRPD : Cat.{max u (v+1), max u (v+1) + 1} :=
+  Cat.of (PGrpd.{max u (v+1), max u (v+1)})
+def grpd : Cat.{max u (v+1), max u (v+1) + 1} :=
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/RussellNaturalModel.lean:111]: Oh dear, is there really no way to deduplicate some of these?

File: GroupoidModel/Groupoids/RussellNaturalModel.lean [hunk 4]
```diff
@@ -177,7 +550,673 @@ def GroupoidNMBase : NaturalModelBase Ctx.{u} where
...
+-- two non-defeq category instances
+def isoYonedaCatGrpd : y(U.{v,u})
+    ≅ yonedaCat.obj (coregrpd.{v,max u (v+1)}) :=
+  asSmallUp_comp_yoneda_iso_forgetToCat_comp_catLift_comp_yonedaCat.app
+    U'.{v,u} ≪≫ Functor.mapIso yonedaCat (by
+      dsimp [Grpd.forgetToCat, U, U']
+      exact ULift.Core.isoCoreULift)
+
+-- FIXME this has an error without the `dsimp` saying it has
+-- two non-defeq category instances
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/RussellNaturalModel.lean:601]: That's a bad sign.. there should only ever be a single way of constructing any typeclass instance up to defeq.

File: GroupoidModel/Russell_PER_MS/UHom.lean [hunk 5]
```diff
@@ -40,6 +41,32 @@ protected def pullbackHom (M : NaturalModelBase Ctx) {Γ : Ctx} (A : y(Γ) ⟶ M
   mapTy := A
   pb := M.disp_pullback A
 
+/-- Morphism into the representable natural transformation `M`
+from `ofIsPullback`-/
+def isPullbackHom (M : NaturalModelBase Ctx)
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/UHom.lean:46]: Name sounds like the hom is a pullback.. which it is, but that's not what this definition is outputting.

File: GroupoidModel/Russell_PER_MS/UHom.lean [hunk 6]
```diff
@@ -40,6 +41,32 @@ protected def pullbackHom (M : NaturalModelBase Ctx) {Γ : Ctx} (A : y(Γ) ⟶ M
...
+    (pb : IsPullback toTm π M.tp toTy) :
+    Hom (M.ofIsPullback pb) M where
+  mapTm := toTm
+  mapTy := toTy
+  pb := pb
+
+-- FIXME please change the name if you don't like this
+/-- Given a `NaturalModelBase`, a semantic type `A : y(Γ) ⟶ Ty`,
+and a substitution `σ : Δ ⟶ Γ`, construct a Hom for the substitution `Aσ`
+-/
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/UHom.lean:58]:
```suggestion
/-- Given `M : NaturalModelBase`, a semantic type `A : y(Γ) ⟶ M.Ty`,
and a substitution `σ : Δ ⟶ Γ`, construct a Hom for the substitution `A[σ]`.
-/
```

File: GroupoidModel/Russell_PER_MS/UHom.lean [hunk 7]
```diff
@@ -51,6 +78,56 @@ structure UHom (M N : NaturalModelBase Ctx) extends Hom M N where
   -- Or an explicit bijection:
   -- U_equiv : (y(⊤_ Ctx) ⟶ M.Ty) ≃ { A : y(⊤_ Ctx) ⟶ N.Tm // A ≫ N.tp = U }
 
+/-- An alternate formulation of `UHom`.
+This formulation requires the context category to have a terminal
+object (aka empty context) and the universe to be
+defined over the empty context.
+
+These don't form a category since `UHom.id M` is essentially `Type : Type` in `M`. -/
+structure UHomRepTerminal {t : Ctx} (ht : IsTerminal t)
```
Comment (Vtec234) [inline GroupoidModel/Russell_PER_MS/UHom.lean:87]: I think we shouldn't make another structure. If this is equivalent to `UHom`, there should be a `UHom.mk'` accepting this data and projections `UHom.U_of_isTerminal (t) : y(t) -> N.Ty` and `UHom.U_pb_of_isTerminal` or something like that.

File: GroupoidModel/ForMathlib.lean [hunk 8]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+theorem id_eq_id (X : Grpd) : 𝟙 X = 𝟭 X := rfl
+
+/-- Composition in the category of groupoids equals functor composition.-/
+theorem comp_eq_comp {X Y Z : Grpd} (F : X ⟶ Y) (G : Y ⟶ Z) : F ≫ G = F ⋙ G := rfl
+
+end Grpd
+
+namespace AsSmall
+
+def up_map_down_map
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:281]:
```suggestion
@[simp] theorem up_map_down_map
```

File: GroupoidModel/ForMathlib.lean [hunk 9]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+    {C : Type u₁} [Category.{v₁, u₁} C] {X Y : C} (f : X ⟶ Y) :
+  AsSmall.down.map (AsSmall.up.map f) = f := rfl
+
+def down_map_up_map
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:285]:
```suggestion
@[simp] theorem down_map_up_map
```

File: GroupoidModel/ForMathlib.lean [hunk 10]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
 
 end Grothendieck
+
+namespace IsPullback
+
+variable {C : Type u₁} [Category.{v₁} C]
+
+variable {P X Y Z : C} {fst : P ⟶ X} {snd : P ⟶ Y} {f : X ⟶ Z} {g : Y ⟶ Z}
+
+def of_iso_isPullback (h : IsPullback fst snd f g) {Q} (i : Q ≅ P) :
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:234]:
```suggestion
theorem of_iso_isPullback (h : IsPullback fst snd f g) {Q} (i : Q ≅ P) :
```
`IsPullback` is a proposition

File: GroupoidModel/ForMathlib.lean [hunk 11]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+  {D : Type u₁} [Category.{v₁} D]
+    {F G : C ⥤ AsSmall.{w} D}
+    (h : F ⋙ AsSmall.down = G ⋙ AsSmall.down)
+    : F = G := by
+  convert_to F ⋙ AsSmall.down
+    ⋙ AsSmall.up
+    = G ⋙ AsSmall.down ⋙ AsSmall.up
+  simp [← Functor.assoc, h]
+
+def up_comp_down
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:312]:
```suggestion
@[simp] theorem up_comp_down
```

File: GroupoidModel/ForMathlib.lean [hunk 12]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+    {C : Type u₁} [Category.{v₁, u₁} C] :
+  AsSmall.up ⋙ AsSmall.down = Functor.id C := rfl
+
+def down_comp_up
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:316]:
```suggestion
@[simp] theorem down_comp_up
```

File: GroupoidModel/ForMathlib.lean [hunk 13]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+namespace Core
+
+variable {C : Type u} [Category.{v} C] {D : Type u₁} [Category.{v₁} D]
+
+@[simp]
+theorem id_inv (X : C) :
+    Iso.inv (coreCategory.id X) = @CategoryStruct.id C _ X := by
+  rfl
+  @[simp]
+theorem comp_inv {X Y Z : Core C} (f : X ⟶ Y) (g : Y ⟶ Z) :
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:354]:
```suggestion

@[simp] theorem comp_inv {X Y Z : Core C} (f : X ⟶ Y) (g : Y ⟶ Z) :
```

File: GroupoidModel/ForMathlib.lean [hunk 14]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+  map_id x := by
+    simp only [asIso, Functor.map_id, IsIso.inv_id]
+    congr 1
+  map_comp f g := by
+    simp only [asIso, Functor.map_comp, IsIso.inv_comp]
+    congr 1
+    simp
+}
+
+def fac_left (s : PullbackCone (Cat.homOf F) (Cat.homOf (inclusion D))) :
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:505]:
```suggestion
@[simp] theorem fac_left (s : PullbackCone (Cat.homOf F) (Cat.homOf (inclusion D))) :
```

File: GroupoidModel/ForMathlib.lean [hunk 15]
```diff
@@ -201,4 +224,356 @@ def mkIso {X Y : Grothendieck G}
...
+    lift s ≫ Cat.homOf (inclusion C) = s.fst := rfl
+
+theorem Core.eqToIso_hom {a b : Core C} (h1 : a = b)
+  (h2 : (inclusion C).obj a = (inclusion C).obj b) :
+    (eqToHom h1).hom = eqToHom h2 := by
+  cases h1
+  rfl
+
+def fac_right (s : PullbackCone (Cat.homOf F) (Cat.homOf (inclusion D))) :
```
Comment (Vtec234) [inline GroupoidModel/ForMathlib.lean:514]:
```suggestion
@[simp] theorem fac_right (s : PullbackCone (Cat.homOf F) (Cat.homOf (inclusion D))) :
```

File: GroupoidModel/Grothendieck/Groupoidal.lean [hunk 16]
```diff
@@ -128,54 +134,116 @@ def Map (Δ Γ: Grpd) (σ : Δ ⥤ Γ) (A : Γ ⥤ Grpd) (B : (Grothendieck.Grou
...
 
 theorem toPGrpd_comp_forgetToPCat :
-    toPGrpd A ⋙ PGrpd.forgetToPCat = toPCat (toCat.{u} A) :=
+    toPGrpd A ⋙ PGrpd.forgetToPCat = toPCat (Groupoid.compForgetToCat A) :=
   rfl
 
-end
+namespace IsMegaPullback
+
+def comm_sq : Groupoidal.toPGrpd A ⋙ PGrpd.forgetToGrpd
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/Groupoidal.lean:159]:
```suggestion
theorem comm_sq : Groupoidal.toPGrpd A ⋙ PGrpd.forgetToGrpd
```

File: GroupoidModel/Grothendieck/Groupoidal.lean [hunk 17]
```diff
@@ -128,54 +134,116 @@ def Map (Δ Γ: Grpd) (σ : Δ ⥤ Γ) (A : Γ ⥤ Grpd) (B : (Grothendieck.Grou
...
+
+theorem fac_left' : (lift fst snd w ⋙ toPGrpd A) ⋙ PGrpd.forgetToPCat
+    = fst ⋙ PGrpd.forgetToPCat := by
+  rw [toPGrpd_eq_lift, Functor.assoc,
+    PGrpd.IsMegaPullback.fac_left,
+    ← PGrpd.IsMegaPullback.fac_left
+      (fst ⋙ PGrpd.forgetToPCat) (snd ⋙ A) (by rw [← w]; rfl)]
+  rfl
+
+theorem fac_left : lift fst snd w ⋙ Groupoidal.toPGrpd _ = fst :=
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/Groupoidal.lean:191]:
```suggestion
@[simp] theorem fac_left : lift fst snd w ⋙ Groupoidal.toPGrpd _ = fst :=
```

File: GroupoidModel/Grothendieck/Groupoidal.lean [hunk 18]
```diff
@@ -128,54 +134,116 @@ def Map (Δ Γ: Grpd) (σ : Δ ⥤ Γ) (A : Γ ⥤ Grpd) (B : (Grothendieck.Grou
...
+      (by rw [Functor.assoc, PGrpd.IsMegaPullback.comm_sq, ← w]; rfl) :=
+    PGrpd.IsMegaPullback.uniq
+      (fst ⋙ PGrpd.forgetToPCat)
+      (snd ⋙ A) _ _
+      (fac_left' _ _ _)
+      (by rw [Functor.assoc, comm_sq]; rfl)
+    _ = fst :=
+    symm $ PGrpd.IsMegaPullback.uniq _ _ _ _ rfl w
+
+theorem fac_right :
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/Groupoidal.lean:205]:
```suggestion
@[simp] theorem fac_right :
```

File: GroupoidModel/Grothendieck/Groupoidal.lean [hunk 19]
```diff
@@ -128,54 +134,116 @@ def Map (Δ Γ: Grpd) (σ : Δ ⥤ Γ) (A : Γ ⥤ Grpd) (B : (Grothendieck.Grou
...
+    lift fst snd w ⋙ Grothendieck.forget _
+    = snd :=
+  Grothendieck.IsMegaPullback.fac_right
+    (fst ⋙ PGrpd.forgetToPCat) snd (by
+    rw [Functor.assoc, PGrpd.IsMegaPullback.comm_sq,
+      ← Functor.assoc, w, Functor.assoc])
+
+theorem uniq (m : C ⥤ Groupoidal A)
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/Groupoidal.lean:213]: `lift_uniq`?

File: GroupoidModel/Grothendieck/IsPullback.lean [hunk 20]
```diff
@@ -50,10 +53,221 @@ theorem toPCat_comp_forgetPoint : toPCat A ⋙ PCat.forgetToCat
...
+      simp only [h1, h2, map_comp, comp_fiber, Category.assoc, lift_map_fiber,
+        eqToHom_map (A.map (snd.map g)),
+        eqToHom_app ((eqToHom w).naturality f).symm,
+        eqToHom_app ((eqToHom w).naturality (f ≫ g)).symm,
+        eqToHom_app ((eqToHom w).naturality g).symm, eqToHom_map]
+      rw [h3]
+      simp
+    · simp
 
+theorem fac_right : lift fst snd w ⋙ Grothendieck.forget A = snd := by
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/IsPullback.lean:184]:
```suggestion
@[simp] theorem fac_right : lift fst snd w ⋙ Grothendieck.forget A = snd := by
```

File: GroupoidModel/Grothendieck/IsPullback.lean [hunk 21]
```diff
@@ -50,10 +53,221 @@ theorem toPCat_comp_forgetPoint : toPCat A ⋙ PCat.forgetToCat
...
+  apply Functor.ext
+  · simp [lift]
+  · simp [lift]
+
+theorem fac_left : lift fst snd w ⋙ Grothendieck.toPCat A = fst := by
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/IsPullback.lean:189]:
```suggestion
@[simp] theorem fac_left : lift fst snd w ⋙ Grothendieck.toPCat A = fst := by
```

File: GroupoidModel/Grothendieck/IsPullback.lean [hunk 22]
```diff
@@ -50,10 +53,221 @@ theorem toPCat_comp_forgetPoint : toPCat A ⋙ PCat.forgetToCat
...
+        rfl
+      · refine heq_of_cast_eq ?_ ?_
+        · rw [h]
+          rfl
+        · simp [eqToHom_app, Cat.eqToHom_obj]
+      · rw [h]
+        simp only [heq_eq_eq]
+        rfl
+
+theorem uniq (m : C ⥤ Grothendieck A)
```
Comment (Vtec234) [inline GroupoidModel/Grothendieck/IsPullback.lean:231]: `lift_uniq`?

File: GroupoidModel/Groupoids/RussellNaturalModel.lean [hunk 23]
```diff
@@ -177,7 +550,673 @@ def GroupoidNMBase : NaturalModelBase Ctx.{u} where
...
+  have := s.condition
+  simp only [Cat.asSmallFunctor_obj, Cat.asSmallFunctor_map,
+    ← Functor.assoc, Cat.comp_eq_comp, classifier] at *
+  rw [this]
+
+def lift : s.pt ⟶ Cat.of (Groupoidal (classifier A)) :=
+  Groupoidal.IsMegaPullback.lift
+    (s.fst ⋙ AsSmall.down) s.snd (comm_sq s)
+
+theorem fac_left : lift s
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/RussellNaturalModel.lean:919]:
```suggestion
@[simp] theorem fac_left : lift s
```

File: GroupoidModel/Groupoids/RussellNaturalModel.lean [hunk 24]
```diff
@@ -177,7 +550,673 @@ def GroupoidNMBase : NaturalModelBase Ctx.{u} where
...
+    ≫ Cat.homOf (Groupoidal.toPGrpd (classifier A) ⋙ AsSmall.up)
+    = s.fst := by
+  convert_to _ = s.fst ⋙ AsSmall.down.{_, _, max u (v+1)}
+    ⋙ AsSmall.up
+  simp only [← Functor.assoc]
+  rw [← Groupoidal.IsMegaPullback.fac_left
+    (s.fst ⋙ AsSmall.down) s.snd (comm_sq s)]
+  rfl
+
+theorem fac_right : lift s
```
Comment (Vtec234) [inline GroupoidModel/Groupoids/RussellNaturalModel.lean:929]:
```suggestion
@[simp] theorem fac_right : lift s
```

File: GroupoidModel/Pointed/IsPullback.lean [hunk 25]
```diff
@@ -34,11 +39,43 @@ def isoGrothendieckForgetToCatInv :
...
+variable {C : Type u₂} [Category.{v₂} C]
+  (fst : C ⥤ PCat.{v₁,u₁})
+  (snd : C ⥤ Grpd.{v₁,u₁})
+  (w : fst ⋙ PCat.forgetToCat = snd ⋙ Grpd.forgetToCat)
+
+def lift : C ⥤ PGrpd.{v₁,u₁} :=
+  Grothendieck.IsMegaPullback.lift fst snd w
+  ⋙ isoGrothendieckForgetToCatInv
+
+theorem fac_left : lift fst snd w ⋙ PGrpd.forgetToPCat = fst :=
```
Comment (Vtec234) [inline GroupoidModel/Pointed/IsPullback.lean:61]:
```suggestion
@[simp] theorem fac_left : lift fst snd w ⋙ PGrpd.forgetToPCat = fst :=
```

File: GroupoidModel/Pointed/IsPullback.lean [hunk 26]
```diff
@@ -34,11 +39,43 @@ def isoGrothendieckForgetToCatInv :
...
+  Grothendieck.IsMegaPullback.fac_left fst snd w
+
+theorem fac_right : lift fst snd w ⋙ PGrpd.forgetToGrpd = snd :=
```
Comment (Vtec234) [inline GroupoidModel/Pointed/IsPullback.lean:64]:
```suggestion
@[simp] theorem fac_right : lift fst snd w ⋙ PGrpd.forgetToGrpd = snd :=
```

File: GroupoidModel/Pointed/IsPullback.lean [hunk 27]
```diff
@@ -34,11 +39,43 @@ def isoGrothendieckForgetToCatInv :
...
+  Grothendieck.IsMegaPullback.fac_right fst snd w
+
+theorem uniq (m : C ⥤ PGrpd.{v₁,u₁})
```
Comment (Vtec234) [inline GroupoidModel/Pointed/IsPullback.lean:67]: `lift_uniq`?

**Review by Vtec234 — COMMENTED** [review]
This is a lot!
- I think it makes sense to default to annotating `@[simp]` on lemmas which are equalities and the RHS is clearly shorter than LHS, so a lot of the suggestions are just that.
- Let's discuss the design of `UHomRepTerminal` a bit more. It seems that introducing a new structure might complicate things a bit.

File: GroupoidModel/Groupoids/RussellNaturalModel.lean (hunk 3 above)
Comment (Jlh18) [reply GroupoidModel/Groupoids/RussellNaturalModel.lean:111]: Yes there is a way. I was in a dark place when I wrote that piece of code

Comment (Jlh18) [reply GroupoidModel/Groupoids/RussellNaturalModel.lean:111]: I don't think there is - the duplication is all in the universe parameters.

It was convenient to have the shorthands when writing the proof. I don't know what the best thing to do here it. Removing these definitions makes it kind of unreadable.

File: GroupoidModel/Groupoids/RussellNaturalModel.lean (hunk 4 above)
Comment (Jlh18) [reply GroupoidModel/Groupoids/RussellNaturalModel.lean:601]: I "fixed" it, by adding an `eqToIso`. But there is still probably a bad design decision I made somewhere. Probably in giving an instance of a groupoid for `AsSmall G` when `G` is a groupoid?

```lean4
-- In ForMathlib
namespace Groupoid

instance asSmallGroupoid (Γ : Type u) [Groupoid.{v} Γ] :
    Groupoid (AsSmall.{w} Γ) where
  inv f := AsSmall.up.map (inv (AsSmall.down.map f))

end Groupoid
```

File: GroupoidModel/ForMathlib.lean (hunk 2 above)
Comment (Jlh18) [reply GroupoidModel/ForMathlib.lean]: i went for `lift_uniq`

**Comment by Jlh18** [comment]
Okay @Vtec234 I have 
- Fixed the `UHom` dependencies in the groupoid files. 
- For the above I defined `ChosenFiniteProducts` on `D` given such an instance on `C` and an equivalence between `C` and `D`
- Reorganized the `RussellNaturalModel` files so that the pullback lemmas are not cluttering the definitions.
